US06649627B1
4-ter-Butoxycarbonylamino-1-(5-aminocarbonylpyrid-2-yl)-piperidine
A mixture of 3 g (0.015 mole) of the product of preparation 1, 1.5 g (0.025 mole) of triethylamine and 2.34 g (0.015 mole) of 6-chloronicotinamide is heated to 80° C. for 18 hours in 60 ml of dimethylformamide. After cooling, water is added and the product filtered. This produces 2.8 g of the named compound M. P. 255° C.

reactant | triethylamine | 0.025 mole, 1.5 g | C(C)N(CC)CC | C6H15N
reactant | 6-chloronicotinamide | 0.015 mole, 2.34 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | water | O | H2O
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 4-ter-Butoxycarbonylamino-1-(5-aminocarbonylpyrid-2-yl)-piperidine | C(C)(C)(C)OC(=O)NC1CCN(CC1)C1=NC=C(C=C1)C(=O)N | C16H24N4O3
